US04242121
3-Chloro-6-(3-trifluoromethylphenoxy)benzoic Acid
2,5-Dichlorobenzoic acid (5 g) and 3-trifluoromethylphenol (4.24 g) were dissolved in xylene and the solution placed under dry oxygen-free nitrogen. Sodium hydride (1.25 g) was slowly added and when effervescence had ceased, cuprous bromide was added and the solution or suspension refluxed for 6 hours. The xylene was removed by low pressure distillation. The solid residue was treated with water and acidified with dilute hydrochloric acid. The resulting oil was extracted into diethyl ether and the ether removed by low pressure distillation to give a light yellow solid which was recrystallised from diethyl ether/petroleum ether to give the title compound (2.7 g), mp, 124° C.

reactant | 2,5-Dichlorobenzoic acid | 5 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | 3-trifluoromethylphenol | 4.24 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | Sodium hydride | 1.25 g | [H-].[Na+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Chloro-6-(3-trifluoromethylphenoxy)benzoic Acid | 2.7 g | ClC=1C=C(C(=O)O)C(=CC1)OC1=CC(=CC=C1)C(F)(F)F | C14H8ClF3O3
